US08461385B2
5-chlorosalicylamide (300 g, 1.75 mol) and water (900 ml) were placed in a 3 liter, 4-neck round-bottomed flask under a nitrogen atmosphere and stirred. 5-ethyl-2-methyl-pyridine (284 g, 2.27 mol) and n-butyl acetate (900 ml) were added to the mixture. The mixture was cooled to 0-5° C. (jacket-10° C.) and dropwise addition of ethyl chloroformate (233 g, 2.10 mol) was started. This addition continued over a period of approximately one hour. When the addition was completed, the reaction mixture was slowly heated (in about two hours) to reflux and kept under reflux for an additional period of about 5 hours (jacket 110° C., internal temperature (IT) 90° C.). The resulting slurry was allowed to cool to room temperature, and hydrochloric acid (28 ml, 37% m/m, 0.34 mol) was added and the mixture stirred for about 30 minutes. The resulting slurry was vacuum filtered, the filter cake was washed with n-butyl acetate followed by water (600 ml) and was allowed to dry overnight in vacuo at 60° C. 321 g (93%) of 6-chloro-2H-1,3-benzoxazine-2,4(3H)-dione (6-chloro carsalam) was isolated after drying.

reactant | 5-chlorosalicylamide | 1.75 mol, 300 g | ClC1=CC=C(C(C(=O)N)=C1)O | C7H6ClNO2
reactant | 5-ethyl-2-methyl-pyridine | 2.27 mol, 284 g | C(C)C=1C=CC(=NC1)C | C8H11N
reactant | ethyl chloroformate | 2.10 mol, 233 g | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | 0.34 mol, 28 ml | Cl | ClH
solvent | n-butyl acetate | 900 ml | C(C)(=O)OCCCC | C6H12O2
solvent | water | 900 ml | O | H2O
product | 6-chloro-2H-1,3-benzoxazine-2,4(3H)-dione | 321 g, 93% | ClC=1C=CC2=C(C(NC(O2)=O)=O)C1 | C8H4ClNO3
